US08486952B2
4-(2,4-dichloro-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-8-yl)benzonitrile (Preparation AA) was reacted as described in Preparation Xa with ethanamine to give 4-(2-chloro-4-(ethylamino)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-8-yl)benzonitrile (Preparation AAa). LC-MS (M+H)+=315.1.

reactant | 4-(2,4-dichloro-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-8-yl)benzonitrile | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=C(C#N)C=C2)Cl | C14H9Cl2N3O
reactant | ethanamine | C(C)N | C2H7N
product | 4-(2-chloro-4-(ethylamino)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-8-yl)benzonitrile | ClC=1N=C(C2=C(N1)C(COC2)C2=CC=C(C#N)C=C2)NCC | C16H15ClN4O
